datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])[H])[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])[H])CC 10=20;20,21=21"
"[H][S:10]C(C)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C)C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[O:10]([Na])C(CC)C(C)C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)[H]>>CCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][O:10]C(C)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C([H])C([H])/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([O]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([O]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CC)/C(C)=C([C:20]([H])=[OH+:21])/O>>[OH:21][C:20]1([H])[OH+:10]C(CC)C(C)=C1O 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(C)[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)[H]>>CCC1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[O-:10]C(CC)C([H])C(C)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)C([H])C(CC)[O:10]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])[H])CCCCCC>>CC1C(C(O[C:20](=[O:10])N1[H])[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CC)/C([H])=C(C)\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)=C([H])C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C([H])[O]1 10=20;20,21=21"
"[NH:10]([H])C(C)/C(C)=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10](C)C(C(C=CC=C9)=C9[C:20](C)=[O:21])[H]>>[O-:21][C:20]2([NH+:10](C)C(C7=C2C=CC=C7)[H])C 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
